US07423030B2
35.2. 4-(3,5-Dimethoxyphenyl)-7-methoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting 2-(3,5-dimethoxybenzoyl)-5-methoxybenzoic acid with hydrazine hydrate.

reactant | 2-(3,5-dimethoxybenzoyl)-5-methoxybenzoic acid | COC=1C=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=C(C1)OC | C17H16O6
reactant | hydrazine hydrate | O.NN
product | 4-(3,5-Dimethoxyphenyl)-7-methoxy-2H-phthalazin-1-one | COC=1C=C(C=C(C1)OC)C1=NNC(C2=CC(=CC=C12)OC)=O | C17H16N2O4
